US07745438B2
5-(R)-[2-(S)-Acetylamino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester
Add triethylamine (0.04 mL, 0.32 mmol) followed by acetic anhydride (0.03 mL, 0.32 mmol) to a solution of 5-(R)-[2-(S)-amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester (138 mg, 0.29 mmol) in dry tetrahydrofuran (3 mL). Stir at room temperature for 10 min. Dilute with dichloromethane, wash with 0.1 N hydrochloric acid (30 mL), dry (sodium sulfate), filter, concentrate and purify (silica gel chromatography, eluting with 45:55 to 70:30 ethyl acetate:dichloromethane) to give the title compound (57 mg).

reactant | triethylamine | 0.32 mmol, 0.04 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.32 mmol, 0.03 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(R)-[2-(S)-amino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | 0.29 mmol, 138 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N)O)CCC1CCCCC1 | C26H40F2N2O4
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 5-(R)-[2-(S)-Acetylamino-3-(3,5-difluorophenyl)-1-(S)-hydroxypropyl]-2-(S)-(2-cyclohexylethyl)-morpholine-4-carboxylic acid tert-butyl ester | 57 mg | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)NC(C)=O)O)CCC1CCCCC1 | C28H42F2N2O5
